US08138205B2
A solution of methyl 2-acetamido-3-(cyclopropylmethoxy)-4-methoxybenzoate (93%, 55 g, 175 mmol) and tetrahydrofuran (500 mL) was added dropwise (internal temperature kept below −65° C.) to a solution of sodium bis(trimethylsilyl)amide (NaHMDS) (691 mL, 1M toluene, 691 mmol) at −78° C. under N2. The cooling bath was removed, and the reaction was stirred overnight. The reaction was quenched with water/ice (1 L) and washed with diethyl ether (300 mL×2). The aqueous phase was adjusted to pH=3, with 6 N HCl. The resulting solids were collected by filtration, washed with water (500 mL×2), and dried in an oven to give 38.8 g of 8-(cyclopropylmethoxy)-4-hydroxy-7-methoxyquinolin-2(1H)-one as a yellow solid. MS (ESI): 262.0.

reactant | methyl 2-acetamido-3-(cyclopropylmethoxy)-4-methoxybenzoate | 175 mmol, 55 g | C(C)(=O)NC1=C(C(=O)OC)C=CC(=C1OCC1CC1)OC | C15H19NO5
reactant | sodium bis(trimethylsilyl)amide | 691 mmol, 1M, 691 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 8-(cyclopropylmethoxy)-4-hydroxy-7-methoxyquinolin-2(1H)-one | 38.8 g | C1(CC1)COC=1C(=CC=C2C(=CC(NC12)=O)O)OC | C14H15NO4
